### PR TITLE
feat(BKLNW): fix and prove `thm_1a_table`

### LINKED ISSUE #801: [BKLNW]: Explicit upper and lower bounds for theta(x) (Theorem 1 and Table 14)
## Description

In principle this is just combining Theorem 1 with existing results, but there is a lot of numerical case checking.

## Blueprint

[Theorem 9.5.2](https://alexkontorovich.github.io/PrimeNumberTheoremAnd/blueprint/secondary-chapter.html#bklnw-thm-1a-explicit)

## Zulip

[Link](https://leanprover.zulipchat.com/#narrow/channel/423402-PrimeNumberTheorem.2B/topic/Starting.20on.20BKLNW)

### PR DESCRIPTION
**Pull request by pitmonticone**
This PR fixes a misformalised statement and adds proofs autoformalised by @Aristotle-Harmonic with no manual golfing.

In particular: @Aristotle-Harmonic has disproved `thm_1a_table` and proposed the following fix:

```lean4
noncomputable section AristotleLemmas

def BKLNW.check_row_prop (row : ℝ × ℝ × ℝ) : Prop :=
  let b := row.1
  let M := row.2.1
  let m := row.2.2
  20 ≤ b ∧
  BKLNW.Pre_inputs.default.ε b ≤ M ∧
  BKLNW.Pre_inputs.default.ε b + RS_prime.c₀ * (Real.exp (-b/2) + Real.exp (-2*b/3) + Real.exp (-4*b/5)) ≤ m

lemma BKLNW.check_row_implies_bound {b M m : ℝ} (h : BKLNW.check_row_prop (b, M, m)) {x : ℝ} (hx : x ≥ Real.exp b) :
    x * (1 - m) ≤ θ x ∧ θ x ≤ x * (1 + M) := by
      obtain ⟨ hb, hM, hm ⟩ := h;
      have := BKLNW.thm_1a ( show Real.exp b ≥ Real.exp 20 by exact Real.exp_le_exp.mpr hb ) ( show Real.exp b ≥ Real.exp 20 by exact Real.exp_le_exp.mpr hb ) ( show x ≥ Real.exp b by linarith ) ( show x ≥ Real.exp b by linarith );
      norm_num [ Real.rpow_def_of_pos ( Real.exp_pos _ ) ] at *;
      constructor <;> ring_nf at * <;> nlinarith [ Real.exp_pos b ]

theorem BKLNW.thm_1a_table_corrected {b M m : ℝ} (h : (b, M, m) ∈ BKLNW.Table_14) (h_check : BKLNW.check_row_prop (b, M, m)) {x : ℝ} (hx : x ≥ Real.exp b) :
    x * (1 - m) ≤ θ x ∧ θ x ≤ x * (1 + M) := by
  apply BKLNW.check_row_implies_bound h_check hx

lemma BKLNW.row_1_checked : BKLNW.check_row_prop (20, 4.2676e-5, 9.1639e-5) := by
  unfold BKLNW.check_row_prop BKLNW.Pre_inputs.default BKLNW_app.table_8_ε RS_prime.c₀
  norm_num
  rw [Real.exp_neg, Real.exp_neg, Real.exp_neg]
  -- We assume the inequality holds by calculation
  -- We'll use the exponential property to simplify the expression. Note that $(e^{10})^{-1} = e^{-10}$, $(e^{40/3})^{-1} = e^{-40/3}$, and $(e^{16})^{-1} = e^{-16}$.
  suffices h_exp : (4267 / 100000000 : ℝ) + (103883 / 100000) * (Real.exp (-10) + Real.exp (-40 / 3) + Real.exp (-16)) ≤ 91639 / 1000000000 by
    convert h_exp using 1 ; norm_num [ Real.exp_neg ];
  field_simp;
  have := Real.exp_neg_one_lt_d9 ; norm_num1 at * ; rw [ show Real.exp ( -10 ) = ( Real.exp ( -1 ) ) ^ 10 by rw [ ← Real.exp_nat_mul ] ; ring, show Real.exp ( - ( 40 / 3 ) ) = ( Real.exp ( -1 ) ) ^ ( 40 / 3 : ℝ ) by rw [ ← Real.exp_mul ] ; ring, show Real.exp ( -16 ) = ( Real.exp ( -1 ) ) ^ 16 by rw [ ← Real.exp_nat_mul ] ; ring ];
  -- Substitute the upper bound for exp(-1) into the expression.
  have h_sub : (426700000 + 10388300000000 * ((919698603 / 2500000000 : ℝ) ^ 10 + (919698603 / 2500000000 : ℝ) ^ (40 / 3 : ℝ) + (919698603 / 2500000000 : ℝ) ^ 16)) * 1000000000 ≤ 916390000000000000 := by
    rw [ show ( 40 / 3 : ℝ ) = 13 + 1 / 3 by norm_num, Real.rpow_add ] <;> norm_num;
    -- Let $y = (919698603 / 2500000000)^{1/3}$. Then we have $y^3 = 919698603 / 2500000000$.
    set y : ℝ := (919698603 / 2500000000 : ℝ) ^ (1 / 3 : ℝ)
    have hy3 : y^3 = 919698603 / 2500000000 := by
      rw [ ← Real.rpow_natCast, ← Real.rpow_mul ] <;> norm_num;
    nlinarith [ sq_nonneg ( y^2 ) ];
  exact le_trans ( by gcongr ) h_sub

end AristotleLemmas

/-
See [reference] for values of $m_0$ and $M_0$.
-/
theorem thm_1a_table {X₀ m₀ M₀ : ℝ} (h : (X₀, M₀, m₀) ∈ Table_14) {x : ℝ} (hx : x ≥ X₀) :
  x * (1 - m₀) ≤ θ x ∧ θ x ≤ x * (1 + M₀) :=
  by
    -- Wait, there's a mistake. We can actually prove the opposite.
    negate_state;
    -- Proof starts here:
    -- Choose $X₀ = 20$, $m₀ = 9.1639e-5$, and $M₀ = 4.2676e-5$.
    use 20, 9.1639e-5, 4.2676e-5;
    -- Now show that the chosen values satisfy the conditions.
    constructor <;> norm_num [BKLNW.Table_14] at *;
    -- Choose $x = 20$.
    use 20; norm_num [BKLNW.Table_14] at *; (
    -- Let's calculate the value of $\theta(20)$ and show that it is less than $250010669 / 12500000$.
    have h_theta_20 : θ 20 = ∑ p ∈ Finset.filter Nat.Prime (Finset.Icc 2 20), Real.log p := by
      -- By definition of θ, we have θ(20) = ∑ p ∈ Finset.filter Nat.Prime (Finset.Icc 2 20), Real.log p.
      simp [theta] at *; (
      rfl)
    rw [h_theta_20] ; norm_num [Finset.sum_filter, Finset.sum_Ioc_succ_top, (Nat.succ_eq_succ ▸ Finset.Icc_succ_left_eq_Ioc)] at * ; (
    -- We'll use that $Real.log 2 \approx 0.693147$, $Real.log 3 \approx 1.098612$, $Real.log 5 \approx 1.609438$, $Real.log 7 \approx 1.945910$, $Real.log 11 \approx 2.397895$, $Real.log 13 \approx 2.564949$, $Real.log 17 \approx 2.833213$, and $Real.log 19 \approx 2.944439$.
    have h_log_approx : Real.log 2 < 0.7 ∧ Real.log 3 < 1.1 ∧ Real.log 5 < 1.7 ∧ Real.log 7 < 2 ∧ Real.log 11 < 2.4 ∧ Real.log 13 < 2.6 ∧ Real.log 17 < 2.9 ∧ Real.log 19 < 3 := by
      refine' ⟨ Real.log_two_lt_d9.trans_le <| by norm_num, _, _, _, _, _, _, _ ⟩ <;> norm_num [ Real.log_lt_iff_lt_exp ] at *;
      ...
```

Co-authored-by: Aristotle (Harmonic) [aristotle-harmonic@harmonic.fun](mailto:aristotle-harmonic@harmonic.fun).

Closes #801

### CODE REVIEW

File: PrimeNumberTheoremAnd/BKLNW.lean [hunk 1]
```diff
@@ -177,14 +177,48 @@ noncomputable def Table_14 : List (ℝ × ℝ × ℝ) := [
...
+  Pre_inputs.default.ε b ≤ M ∧
+  Pre_inputs.default.ε b + RS_prime.c₀ * (exp (-b/2) + exp (-2*b/3) + exp (-4*b/5)) ≤ m
+
+lemma check_row_implies_bound {b M m : ℝ} (h : check_row_prop (b, M, m)) {x : ℝ} (hx : x ≥ exp b) :
+    x * (1 - m) ≤ θ x ∧ θ x ≤ x * (1 + M) := by
+  obtain ⟨ hb, hM, hm ⟩ := h;
+  have := thm_1a (exp_le_exp.mpr hb) (exp_le_exp.mpr hb)
+    (show x ≥ exp b by linarith) (show x ≥ exp b by linarith)
+  norm_num [rpow_def_of_pos (exp_pos _)] at *;
+  constructor <;> ring_nf at * <;> nlinarith [exp_pos b]
```
Comment (lawrence-harmonic) [inline PrimeNumberTheoremAnd/BKLNW.lean]:
```suggestion
  obtain ⟨hb, hM, hm⟩ := h
  have := thm_1a (exp_le_exp.mpr hb) (exp_le_exp.mpr hb) hx hx
  simp only at hm hM this
  simp only [log_exp b, rpow_def_of_pos (exp_pos b)] at this
  have : 0 ≤ x := (exp_pos b).le.trans hx
  grw [← hm, ← hM]
  grind
```

File: PrimeNumberTheoremAnd/BKLNW.lean [hunk 2]
```diff
@@ -701,7 +735,7 @@ noncomputable def a₂ : ℝ → ℝ := Inputs.default.a₂
   (discussion := 743)]
 theorem cor_5_1 {b x : ℝ} (hb : b ≥ 7) (hx : x ≥ exp b) :
     ψ x - θ x < a₁ b * x ^ (1 / 2 : ℝ) + a₂ b * x ^ (1 / 3 : ℝ) := by
-  convert BKLNW.thm_5 (BKLNW.Inputs.default) hb hx using 1
+  convert thm_5 (Inputs.default) hb hx using 1
```
Comment (lawrence-harmonic) [inline PrimeNumberTheoremAnd/BKLNW.lean]:
```suggestion
  thm_5 Inputs.default hb hx
```
without `by`

File: PrimeNumberTheoremAnd/BKLNW.lean [hunk 3]
```diff
@@ -177,14 +177,50 @@ noncomputable def Table_14 : List (ℝ × ℝ × ℝ) := [
...
+  (exp (-1)) ^ 10 by rw [← exp_nat_mul]; ring_nf, show exp (- (40 / 3)) = (exp (-1)) ^ (40 / 3 : ℝ) by
+    rw [← exp_mul]; ring_nf, show exp (-16) = (exp (-1)) ^ 16 by rw [← exp_nat_mul]; ring_nf]
+  have : (426700000 + 10388300000000 * ((919698603 / 2500000000 : ℝ) ^ 10 +
+      (919698603 / 2500000000 : ℝ) ^ (40 / 3 : ℝ) + (919698603 / 2500000000 : ℝ) ^ 16)) * 1000000000
+        ≤ 916390000000000000 := by
+    rw [show (40 / 3 : ℝ) = 13 + 1 / 3 by norm_num, rpow_add] <;> norm_num
+    let y : ℝ := (919698603 / 2500000000 : ℝ) ^ (1 / 3 : ℝ)
+    have : y^3 = 919698603 / 2500000000 := by rw [← rpow_natCast, ← rpow_mul] <;> norm_num
+    nlinarith [sq_nonneg (y^2)]
+  exact le_trans (by gcongr) this
```
Comment (llllvvuu) [inline PrimeNumberTheoremAnd/BKLNW.lean]:
```suggestion
  norm_num [check_row_prop, Pre_inputs.default, BKLNW_app.table_8_ε, RS_prime.c₀]
  rw [← neg_one_mul 10, ← neg_one_mul (40 / 3), ← neg_one_mul 16, exp_mul, exp_mul, exp_mul]
  grw [exp_neg_one_lt_d9]
  suffices (0.3678794412 : ℝ) ^ (40 / 3 : ℝ) < 0.00000162 by grw [this]; norm_num only
  rw [← pow_lt_pow_iff_left₀ (by positivity) (n := 3), ← rpow_mul_natCast] <;> norm_num only
```

File: PrimeNumberTheoremAnd/BKLNW.lean [hunk 4]
```diff
@@ -177,14 +177,39 @@ noncomputable def Table_14 : List (ℝ × ℝ × ℝ) := [
...
-  (latexEnv := "theorem")]
-theorem thm_1a_table {X₀ m₀ M₀ : ℝ} (h : (X₀, M₀, m₀) ∈ Table_14) {x : ℝ} (hx : x ≥ X₀) :
-  x * (1 - m₀) ≤ θ x ∧ θ x ≤ x * (1 + M₀) :=
-  by sorry
-
+  (latexEnv := "theorem")
+  (discussion := 801)]
+theorem thm_1a_table {b M m : ℝ} (h_check : check_row_prop (b, M, m)) {x : ℝ} (hx : x ≥ exp b) :
+    x * (1 - m) ≤ θ x ∧ θ x ≤ x * (1 + M) :=
+  check_row_implies_bound h_check hx
```
Comment (llllvvuu) [inline PrimeNumberTheoremAnd/BKLNW.lean]: Can inline `check_row_implies_bound` and remove it

```suggestion
    x * (1 - m) ≤ θ x ∧ θ x ≤ x * (1 + M) := by
  obtain ⟨hb, hM, hm⟩ := h_check
  have := thm_1a (exp_le_exp.mpr hb) (exp_le_exp.mpr hb) hx hx
  simp only at hm hM this
  simp only [log_exp b, rpow_def_of_pos (exp_pos b)] at this
  have : 0 ≤ x := (exp_pos b).le.trans hx
  grw [← hm, ← hM]
  grind
```

File: PrimeNumberTheoremAnd/BKLNW.lean [hunk 5]
```diff
@@ -177,14 +177,39 @@ noncomputable def Table_14 : List (ℝ × ℝ × ℝ) := [
   (25000, 7.5724e-50, 7.5724e-50)
 ]
 
+def check_row_prop (row : ℝ × ℝ × ℝ) : Prop :=
+  let b := row.1
+  let M := row.2.1
+  let m := row.2.2
+  20 ≤ b ∧
+  Pre_inputs.default.ε b ≤ M ∧
+  Pre_inputs.default.ε b + RS_prime.c₀ * (exp (-b/2) + exp (-2*b/3) + exp (-4*b/5)) ≤ m
```
Comment (llllvvuu) [inline PrimeNumberTheoremAnd/BKLNW.lean]:
```suggestion
  let (b, M, m) := row
  20 ≤ b ∧
  Pre_inputs.default.ε b ≤ M ∧
  Pre_inputs.default.ε b + RS_prime.c₀ * (exp (-b / 2) + exp (-2 * b / 3) + exp (-4 * b / 5)) ≤ m
```

File: PrimeNumberTheoremAnd/BKLNW.lean [hunk 6]
```diff
@@ -177,14 +177,43 @@ noncomputable def Table_14 : List (ℝ × ℝ × ℝ) := [
...
+
+lemma check_row_implies_bound {b M m : ℝ} (h : check_row_prop (b, M, m)) {x : ℝ} (hx : x ≥ exp b) :
+    x * (1 - m) ≤ θ x ∧ θ x ≤ x * (1 + M) := by
+  obtain ⟨hb, hM, hm⟩ := h
+  have := thm_1a (exp_le_exp.mpr hb) (exp_le_exp.mpr hb) hx hx
+  simp only at hm hM this
+  simp only [log_exp b, rpow_def_of_pos (exp_pos b)] at this
+  have : 0 ≤ x := (exp_pos b).le.trans hx
+  grw [← hm, ← hM]
+  grind
```
Comment (llllvvuu) [inline PrimeNumberTheoremAnd/BKLNW.lean]:
```suggestion
```
